US07977358B2
A] 3′S,5′S)-[1,3′]Bipyrrolidinyl-1′,5′-dicarboxylic acid 1′-tert-butyl ester 5′-methyl ester
To a solution of N-t-butoxycarbonyl-4-oxo-L-proline methyl ester (1.0 g, 4 mmol) (J. Org. Chem. 2001, 10, 3593), pyrrolidine (0.4 ml, 5 mmol), acetic add (0.3 ml, 5 mmol) in CH2Cl2 (20 ml) was added sodium triacetoxyborohydride (1.0 g, 5 mmol) and the mixture stirred for 2 h. After which time it was washed with saturated sodium hydrogen carbonate, dried (Na2SO4) and concentrated. Flash column chromatography (EtOAc:MeOH 95:5) afforded the title compound (1.0 g, 81%) as a yellow oil.

reactant | N-t-butoxycarbonyl-4-oxo-L-proline methyl ester | 4 mmol, 1.0 g | COC([C@H]1N(CC(C1)=O)C(=O)OC(C)(C)C)=O | C11H17NO5
reactant | pyrrolidine | 5 mmol, 0.4 ml | N1CCCC1 | C4H9N
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | sodium triacetoxyborohydride | 5 mmol, 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | [1,3′]Bipyrrolidinyl-1′,5′-dicarboxylic acid 1′-tert-butyl ester 5′-methyl ester | 1.0 g, 81% | COC(=O)C1CC(CN1C(=O)OC(C)(C)C)N1CCCC1 | C15H26N2O4
